### PR TITLE
[Merged by Bors] - feat(CategoryTheory): morphism properties that have the two-out-of-three property

### PR DESCRIPTION
**Pull request by joelriou**
The type class `MorphismProperty.HasTwoOutOfThreeProperty` is introduced. The structure `StableUnderComposition` is also changed into a type class `IsStableUnderComposition`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/MorphismProperty/Composition.lean [hunk 1]
```diff
@@ -154,30 +138,87 @@ end naturalityProperty
...
+    (P.inverseImage F).IsMultiplicative where
+
 end IsMultiplicative
 
+/-- A class of morphisms `W` has the two-out-of-three property if whenever two out
+of three maps in `f`, `g`, `f ≫ g` are in `W`, then the third map is also in `W`. -/
+class HasTwoOutOfThreeProperty (W : MorphismProperty C)
+    extends W.IsStableUnderComposition : Prop where
+  of_postcomp {X Y Z : C} (f : X ⟶ Y) (g : Y ⟶ Z) : W g → W (f ≫ g) → W f
+  of_precomp {X Y Z : C} (f : X ⟶ Y) (g : Y ⟶ Z) : W f → W (f ≫ g) → W g
```
Comment (erdOne) [inline Mathlib/CategoryTheory/MorphismProperty/Composition.lean:187]: I wonder if we should define these classes separately. There are plenty classes that only satisfy one of them: mono, epi, finite scheme morphisms etc.

But maybe there isn't much API to develop and there isn't much gain.

File: Mathlib/CategoryTheory/MorphismProperty/Composition.lean [hunk 2]
```diff
@@ -89,39 +95,16 @@ theorem StableUnderInverse.unop {P : MorphismProperty Cᵒᵖ} (h : StableUnderI
...
-  haveI := hg
-  apply epi_comp
-#align category_theory.morphism_property.stable_under_composition.epimorphisms CategoryTheory.MorphismProperty.StableUnderComposition.epimorphisms
-
-theorem StableUnderComposition.inverseImage {P : MorphismProperty D} (h : StableUnderComposition P)
-    (F : C ⥤ D) : StableUnderComposition (P.inverseImage F) := fun X Y Z f g hf hg => by
-  simpa only [← F.map_comp] using h (F.map f) (F.map g) hf hg
-#align category_theory.morphism_property.stable_under_composition.inverse_image CategoryTheory.MorphismProperty.StableUnderComposition.inverseImage
+theorem respectsIso_of_isStableUnderComposition {P : MorphismProperty C}
+    [P.IsStableUnderComposition] (hP : isomorphisms C ⊆ P) :
```
Comment (erdOne) [inline Mathlib/CategoryTheory/MorphismProperty/Composition.lean:99]: I noticed that a lot of these are formalized with subset rather than le. Is there a reason to this? It will require either a lot more duplication or rewrites into le when using the order API (when considering the disjunction of properties, or monotone property constructors etc.)
(out of scope of this PR)

File: Mathlib/CategoryTheory/MorphismProperty/Composition.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/MorphismProperty/Composition.lean:187]: Mono and epi satisfy an even more stronger conditions: if the composition is mono, then the first map is. Indeed, I do not think this would be a significant gain.

File: Mathlib/CategoryTheory/MorphismProperty/Composition.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/MorphismProperty/Composition.lean:99]: For `MorphismProperty`, I prefer `⊆` over `≤`, because if `h : W₁ ⊆ W₂`, it can be used as `h f hf`, rather than `h X Y f hf` if it were `h : W₁ ≤ W₂` (and `f : X ⟶ Y`).

Comment (erdOne) [reply Mathlib/CategoryTheory/MorphismProperty/Composition.lean:99]: Hmmm good point. I'll try later if I can change up the implicitness when deriving the complete lattice instance.

File: Mathlib/CategoryTheory/MorphismProperty/Composition.lean [hunk 3]
```diff
@@ -61,19 +61,25 @@ instance Pi.containsIdentities {J : Type w} {C : J → Type u}
...
-#align category_theory.morphism_property.stable_under_composition.op CategoryTheory.MorphismProperty.StableUnderComposition.op
+instance IsStableUnderComposition.op {P : MorphismProperty C} [P.IsStableUnderComposition] :
+    P.op.IsStableUnderComposition where
+  comp_mem f g hf hg := P.comp_mem g.unop f.unop hg hf
+#align category_theory.morphism_property.stable_under_composition.op CategoryTheory.MorphismProperty.IsStableUnderComposition.op
 
-theorem StableUnderComposition.unop {P : MorphismProperty Cᵒᵖ} (h : StableUnderComposition P) :
-    StableUnderComposition P.unop := fun _ _ _ f g hf hg => h g.op f.op hg hf
-#align category_theory.morphism_property.stable_under_composition.unop CategoryTheory.MorphismProperty.StableUnderComposition.unop
+theorem IsStableUnderComposition.unop {P : MorphismProperty Cᵒᵖ} [P.IsStableUnderComposition] :
```
Comment (erdOne) [inline Mathlib/CategoryTheory/MorphismProperty/Composition.lean:79]: This can be an instance as well I think.

File: Mathlib/CategoryTheory/MorphismProperty/Basic.lean [hunk 4]
```diff
@@ -98,6 +98,10 @@ def inverseImage (P : MorphismProperty D) (F : C ⥤ D) : MorphismProperty C :=
   P (F.map f)
 #align category_theory.morphism_property.inverse_image CategoryTheory.MorphismProperty.inverseImage
 
+@[simp]
+lemma inverseImage_iff (P : MorphismProperty D) (F : C ⥤ D) {X Y : C} (f : X ⟶ Y) :
+    (P.inverseImage F) f ↔ P (F.map f) := by rfl
```
Comment (erdOne) [inline Mathlib/CategoryTheory/MorphismProperty/Basic.lean:103]:
```suggestion
    P.inverseImage F f ↔ P (F.map f) := by rfl
```

File: Mathlib/CategoryTheory/MorphismProperty/Composition.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/MorphismProperty/Composition.lean:79]: Thanks!

**Comment by erdOne** [comment]
!bench

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
